US05712274
(±)-4-(4-(4-Chlorophenyl)-2-ethyl-9-methyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-6-yl)butyric acid (0.50 g) and 1-hydroxybenzotriazole (0.17 g) are added to dry dimethylformamide (20 ml) and the mixture is stirred under ice-cooling. Thereto is added 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide hydrochloride (0.25 g), and then triethylamine (0.24 g) and aniline (0.11 g) are added. The mixture is stirred at room temperature for 4 days. After the completion of the reaction, water (100 ml) is added and the mixture is extracted with ethyl acetate. The organic layer is washed with 6N hydrochloric acid, a saturated aqueous solution of sodium hydrogencarbonate and saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue is purified by silica gel column chromatography (ethyl acetate:methanol=10:l) and crystallized from ethyl acetate and isopropyl ether to give 0.29 g of (±)-N-phenyl-4-(4-(4-chlorophenyl)-2-ethyl-9-methyl-6H-thieno[3,2-f][1,2,4]triazolo-[4,3-a][1,4]diazepin-6-yl)butaneamide as white powdery crystals, melting point 238°-240° C.

reactant | (±)-4-(4-(4-Chlorophenyl)-2-ethyl-9-methyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-6-yl)butyric acid | 0.50 g | ClC1=CC=C(C=C1)C1=NC(C=2N(C3=C1C=C(S3)CC)C(=NN2)C)CCCC(=O)O | C21H21ClN4O2S
reactant | 1-hydroxybenzotriazole | 0.17 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide hydrochloride | 0.25 g | Cl.C(C)N=C=NCCCN(C)C
reactant | aniline | 0.11 g | NC1=CC=CC=C1 | C6H7N
solvent | water | 100 ml | O | H2O
solvent | triethylamine | 0.24 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | (±)-N-phenyl-4-(4-(4-chlorophenyl)-2-ethyl-9-methyl-6H-thieno[3,2-f][1,2,4]triazolo-[4,3-a][1,4]diazepin-6-yl)butaneamide | 0.29 g | C1(=CC=CC=C1)NC(CCCC1C=2N(C3=C(C(=N1)C1=CC=C(C=C1)Cl)C=C(S3)CC)C(=NN2)C)=O | C27H26ClN5OS
